US04681933
5-Ethyl-3'-O-methanesulfonyl-5'-O-trityl-2'-deoxyuridine
To a solution of 5-ethyl-5'-O-trityl-2'-deoxyuridine (7.5 g, 15 mmole) in dry pyridine (50 ml), methanesulfonyl chloride (4.0 g, 35 mmole) is added while cooling in an ice-water bath. The mixture is stirred for one hour at around 0° C. and followed by allowing the temperature to rise to room temperature. At this point, tlc indicates no remaining starting materials. The mixture is then poured into an ice-water mixture (1.5 liters) while stirring, the water is decanted, and the product is washed with cold water several times, dissolved in chloroform and dried (over MgSO4). Finally, the solvent is evacuated in vacuo to obtain a syrup (7.6 g, 90%). This material is sufficiently pure to carry out the next reaction without further purification. However, an analytical sample can be obtained by column chromatography or tlc using chloroform as an eluent.

reactant | 5-ethyl-5'-O-trityl-2'-deoxyuridine | 15 mmole, 7.5 g | C(C)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](COC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)O2)C1)=O)=O | C30H30N2O5
reactant | methanesulfonyl chloride | 35 mmole, 4.0 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 5-Ethyl-3'-O-methanesulfonyl-5'-O-trityl-2'-deoxyuridine | 7.6 g, 90% | C(C)C=1C(NC(N([C@H]2C[C@H](OS(=O)(=O)C)[C@@H](COC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)O2)C1)=O)=O | C31H32N2O7S
